US04097587
2.2 g of the 1,2,5,6-tetrahydro-2,2,6,6-tetramethyl-4-piperidinopyridine and 1.2 g of allyl bromide were dissolved in 3 ml of chloroform and the solution was then allowed to stand at room temperature for 24 hours. The crystals which precipitated were filtered off, washed with hexane and dissolved in 4 ml of concentrated aqueous ammonia; the resulting solution was extracted with hexane. The hexane extract was dried over potassium carbonate and, after removal of the hexane, 1.3 g of 5-allyl-1,2,5,6-tetrahydro-2,2,6,6-tetramethyl-4-piperidinopyridine were obtained. On thin layer chromatography using a 0.25 mm thick layer of alumina ("60F 254", available from Merck & Co.) and a mixture of benzene, hexane, ethyl acetate and triethylamine (2 : 2 : 1 : 0.5 by volume) as developing solvent, the compound showed a single spot with an Rf value of 0.80.

reactant | 1,2,5,6-tetrahydro-2,2,6,6-tetramethyl-4-piperidinopyridine | 2.2 g | CC1(NC(CC(=C1)N1CCCCC1)(C)C)C | C14H26N2
reactant | allyl bromide | 1.2 g | C(C=C)Br | C3H5Br
solvent | chloroform | 3 ml | C(Cl)(Cl)Cl | CHCl3
product | 5-allyl-1,2,5,6-tetrahydro-2,2,6,6-tetramethyl-4-piperidinopyridine | 1.3 g | C(C=C)C1C(=CC(NC1(C)C)(C)C)N1CCCCC1 | C17H30N2
